US07410971B2
1-(2-Methylsulfanylethyl)-4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazine hydrochloride
After dissolving 1-(2-methylsulfanylethyl)-4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazine (22 mg, 0.0588 mmol) in dichloromethane (1.5 mL), a 4N solution of hydrogen chloride in ethyl acetate (0.0294 mL, 0.1175 mmol) was added. The solution was concentrated, diethyl ether was added to the obtained residue to produce a solid, and the supernatant diethyl ether solution was removed. The resultant solid was dried under reduced pressure to give 14 mg of the title compound as a colorless solid.

reactant | 1-(2-methylsulfanylethyl)-4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazine | 0.0588 mmol, 22 mg | CSCCN1CCN(CC1)C1=C(C=CC=C1)C1CC(CC(C1)(C)C)(C)C | C23H38N2S
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 0.1175 mmol, 0.0294 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 1-(2-Methylsulfanylethyl)-4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazine hydrochloride | 14 mg | Cl.CSCCN1CCN(CC1)C1=C(C=CC=C1)C1CC(CC(C1)(C)C)(C)C | InChI=1S/C23H38N2S.ClH/c1-22(2)16-19(17-23(3,4)18-22)20-8-6-7-9-21(20)25-12-10-24(11-13-25)14-15-26-5;/h6-9,19H,10-18H2,1-5H3;1H
